US07601716B2
7-Bromo-4-[1-(2,5-difluorophenyl)methylidene]-1,2,3,4-tetrahydro-[1,8]naphthyridine
Na2CO3 (2N, 3.46 mL, 10.0 eq) was added to a mixture of 7-bromo-4-[1-iodomethylidene]-1,2,3,4-tetrahydro-[1,8]naphthyridine (607 mg), 2,5-difluorophenylboronic acid (328 mg, 1.2 eq), and Pd(PPh3)4 (150 mg, 0.075 eq) in toluene/ethanol (4:1 v/v). The reaction was heated at 85° C. for five (5) hours, Celite was added, and the mixture was then concentrated under reduced pressure. The dry powder was then dry loaded onto a silica gel column and a gradient of 0-20% ethyl acetate/hexane as the eluting solvent gave the title compound as a yellow solid (70% yield). M.p. 178-179° C., LCMS: m/z=337 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.62 (t, J=5.8 Hz, 2H), 3.55-3.62 (m, 2H), 5.25 (bs, 1H), 6.26 (s, 1H), 6.45 (d, J=7.9 Hz, 1H), 6.85-6.95 (m, 1H), 6.96-7.12 (m, 3H).

reactant | Na2CO3 | 2N, 3.46 mL, 10.0 eq | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 7-bromo-4-[1-iodomethylidene]-1,2,3,4-tetrahydro-[1,8]naphthyridine | 607 mg | BrC1=CC=C2C(CCNC2=N1)=CI | C9H8BrIN2
reactant | 2,5-difluorophenylboronic acid | 328 mg, 1.2 eq | FC1=C(C=C(C=C1)F)B(O)O | C6H5BF2O2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | toluene ethanol | C1(=CC=CC=C1)C.C(C)O
catalyst | Pd(PPh3)4 | 150 mg, 0.075 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-Bromo-4-[1-(2,5-difluorophenyl)methylidene]-1,2,3,4-tetrahydro-[1,8]naphthyridine | 70% yield | BrC1=CC=C2C(CCNC2=N1)=CC1=C(C=CC(=C1)F)F | C15H11BrF2N2
